US08536197B2
(237a) Ethyl 2-[(3S)-3-aminopyrrolidin-1-yl]-4-methyl-1,3-thiazole-5-carboxylate
A solution of (3S)-3-aminopyrrolidine (0.16 mL, 1.80 mmol), ethyl 2-bromo-4-methylthiazole-5-carboxylate (300 mg, 1.20 mmol) and diisopropylethylamine (0.42 mL, 2.40 mmol) in DMF (12 mL) was stirred at 90° C. for 75 minutes. The reaction solution was diluted with ethyl acetate, and then the mixture was washed with saturated aqueous sodium bicarbonate solution, and dried over anhydrous magnesium sulfate. Following filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: dichloromethane/methanol=5/1) to obtain 257 mg of the title compound as a pale yellow solid (84%).

reactant | (3S)-3-aminopyrrolidine | 1.80 mmol, 0.16 mL | N[C@@H]1CNCC1 | C4H10N2
reactant | ethyl 2-bromo-4-methylthiazole-5-carboxylate | 1.20 mmol, 300 mg | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | diisopropylethylamine | 2.40 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-[(3S)-3-aminopyrrolidin-1-yl]-4-methyl-1,3-thiazole-5-carboxylate | 257 mg, 84% | N[C@@H]1CN(CC1)C=1SC(=C(N1)C)C(=O)OCC | C11H17N3O2S
